US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(6-BROMO-1,3-BENZODIOXOL-5-YL)METHYL]AMINE
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 6-bromo benzo[1,3]dioxole-5-carbaldehyde. MS (ESI) m/z 591.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 6-bromo benzo[1,3]dioxole-5-carbaldehyde | BrC=1C(=CC2=C(OCO2)C1)C=O | C8H5BrO3
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(6-BROMO-1,3-BENZODIOXOL-5-YL)METHYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC2=C(OCO2)C=C1Br)C(F)(F)F | C31H22BrF3N2O2
